US07495029B2
5-({1-[(2R)-2-propyloctanoyl]azepan-4-yl}sulfonyl)quinoline
(R)-2-propyloctanoic acid (100 mg, 0.48 mmol) was dissolved in 1 mL DMF. HATU (201 mg, 0.53 mmol) and NMM (64 μL, 0.58 mmol) were added and the solution was stirred for 5 min. Fasudil (154 mg, 0.53 mmol) was added and the solution was stirred for 2 h at rt. The reaction was quenched with TFA (48 μL, 0.63 mmol) and MeOH (1 mL) and purified by preparative HPLC (50% to 100% ACN/water) to give the product (Example 5) as a white solid. 1H-NMR (500 MHz, CDCl3) δ 9.81 (s, 1H), 8.94 (d, 1H), 8.70 (d, 1H), 8.54-8.60 (m, 2H), 7.98 (t, 1H), 7.28 (s, 1H), 3.71-3.76 (m, 4H), 3.45-3.48 (m, 4H), 2.56-2.58 (m, 1H), 2.04-2.07 (m, 2H), 1.59-1.65 (m, 2H), 1.43-1.44 (m, 2H), 1.26-1.29 (m, 10H), 0.86-0.91 (m, 6H). MS (ESI) 460 (M+H).

reactant | (R)-2-propyloctanoic acid | 0.48 mmol, 100 mg | C(CC)[C@@H](C(=O)O)CCCCCC | C11H22O2
reactant | HATU | 0.53 mmol, 201 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 0.58 mmol, 64 μL | CN1CCOCC1 | C5H11NO
reactant | Fasudil | 0.53 mmol, 154 mg | C=1C=C2C=NC=CC2=C(C1)S(=O)(=O)N3CCCNCC3 | C14H17N3O2S
reactant | TFA | 0.63 mmol, 48 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1 mL | CO | CH4O
product | 5-({1-[(2R)-2-propyloctanoyl]azepan-4-yl}sulfonyl)quinoline | C(CC)[C@@H](C(=O)N1CCC(CCC1)S(=O)(=O)C1=C2C=CC=NC2=CC=C1)CCCCCC | C26H38N2O3S
